US08193178B2
Step D: 4-Chloro-6,7,8,9-tetrahydro-benzo[4,5]thieno[3,2-d]pyrimidin-2-ylamine
In a 15 mL flask, 2-amino-6,7,8,9-tetrahydro-1H-benzo[4,5]thieno[3,2-d]pyrimidin-4-one (0.2 g, 0.9 mmol) and tetraethyl ammonium chloride (0.3 g, 1.8 mmol) were dried under vacuum at 100° C. for 12 h. Addition of acetonitrile (1.80 mL), dimethylaniline (0.12 mL, 0.9 mmol) and POCl3 (0.50 mL, 5.42 mmol) followed, and the reaction mixture was heated to 110° C. for 15 min. The solution was concentrated and ice was added along with CHCl3 (5 mL). The aqueous layer pH was adjusted to pH=7 with saturated (satd.) aq. NaHCO3 and extraction from that layer proceeded with CHCl3 (3×20 mL). The combined organic layers were dried (Na2SO4) and concentrated. The resultant residue was purified by FCC (50% EtOAc/hexanes) to afford the desired product as a pale yellow solid (88 mg). Certain substrates were found to be unstable at higher temperatures, in which case prolonged heating at lower temperature (in a range such as from about 50° C. to about 60° C.) sufficed. MS: 240.0. 1H NMR (400 MHz, CDCl3) δ ppm 5.08 (s, 2H), 2.90-2.83 (m, 2H), 2.74-2.67 (m, 2H), 1.98-1.91 (m, 2H), 1.91-1.83 (m, 2H).

reactant | 2-amino-6,7,8,9-tetrahydro-1H-benzo[4,5]thieno[3,2-d]pyrimidin-4-one | 0.9 mmol, 0.2 g | NC1=NC(C2=C(N1)C1=C(S2)CCCC1)=O | C10H11N3OS
reactant | dimethylaniline | 0.9 mmol, 0.12 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 5.42 mmol, 0.50 mL | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | tetraethyl ammonium chloride | 1.8 mmol, 0.3 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 1.80 mL | C(C)#N | C2H3N
product | 4-Chloro-6,7,8,9-tetrahydro-benzo[4,5]thieno[3,2-d]pyrimidin-2-ylamine | 88 mg | ClC=1C2=C(N=C(N1)N)C1=C(S2)CCCC1 | C10H10ClN3S
